Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
dyspnea, cough
 
Major Surgical or Invasive Procedure:
Port placement ___

 
History of Present Illness:
This is a ___ M with Stage IV pancreatic adenocarcinoma 
metastatic to retroperitoneal lymph nodes and lungs, DVT on 
Lovenox, SIADH admitted from the PACU after port placement. He 
presented for elective port placement ___. Case started under 
MAC, but patient had difficulty lying flat due to cough. He had 
wheezing, stridor and needed frequent suctioning. Port placement 
was complicated and patient was intubated during procedure. He 
was difficult to extubate and required nebs. Following 
extubation, he continued to have cough, stridor, wheeze. 

Patient reports that he has had a dry cough for the past 4 
weeks. He reports that he developed wheezing approximately 1 
week ago and was started on an inhaler at that time and also 
takes morphine and benzonatate with some relief. He reports 
dyspnea on exertion starting at about the same time. Denies 
fevers, chills, orthopnea, chest pain. Reports intermittant 
lower abdominal pain and diarrhea.  Denies nausea, vomiting. 
Reports 40 lb weight loss over the past 4 weeks. also reports 
chronic low back pain.

Vitals prior to transfer were 98.4 122/69, 98/3L, 76 

Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No fever, chills, night sweats 
HEENT: No headache, sinus tenderness, rhinorrhea or congestion. 
CV: No chest pain or tightness, palpitations. PULM: per HPI GI: 
No nausea, vomiting, constipation. no hematochezia or melena. 
GUI: No dysuria or change in bladder habits. MSK: No arthritis, 
arthralgias, or myalgias. DERM: No rashes or skin breakdown. 
NEURO: No numbness/tingling in extremities. All other review of 
systems negative.  

 
Past Medical History:
Past Oncologic History:  
- initially hospitalized at ___ in 
___ with abdominal pain and hyponatremia attributed to 
___.  CT showed inflammation in the body/tail of the pancreas; 
a mass could not be excluded.  CT was also notable for bilateral 
lung nodules and diffuse lymphadenopathy.  
-PET CT performed on ___ showed multiple FDG avid 
pulmonary nodules and hilar lymphadenopathy concerning for 
primary bronchogenic cancer as well as FDG avidity in the 
pancreatic body and retroperitoneal lymph nodes concerning for 
pancreatic cancer.  
-He was seen by Thoracic Oncology in ___ for a planned 
right lung nodule biopsy; however, he declined intervention at 
that time.  
- He represented in ___ and underwent endoscopic ultrasound 
at which time FNA of the pancreatic lesion was nondiagnostic.  A 
repeat FNA was suspicious for adenocarcinoma.  
- He was also diagnosed with a right lower extremity DVT and 
started on enoxaparin in ___.  He lost 35 pounds over the 
course of his illness.  
- He initially presented to Medical Oncology at ___ on ___.  Biopsy of the retroperitoneal lymph node confirmed 
the finding of adenocarcinoma consistent with pancreatic 
primary, and his ___ was elevated at 10,888 U/mL.
  
Other Past Medical History:  
- metastatic pancreatic cancer as above
- RLE DVT diagnosed in ___ on Lovenox
- h/o H. pylori gastritis s/p 14 days of PrevPak
- Hyperlipidemia.
- ___
- splenic vein thrombosis on imaging

 
Social History:
___
Family History:
Denies any family history of pancreatic or other GI disease, 
cancer, or autoimmune disease
The patient's father died at a young age.  His
mother is alive in her ___, has one brother and sister, and
mother have no health concerns.  His two children have no health
concerns.
  

 
Physical Exam:
ADMISSION:
VS:  98.8 122/64 111 18 90%/RA
GEN: AOx3, NAD  
HEENT: PERRLA. MMM. neck supple. 
Cards: tachycardic, regular except for relatively frequent 
dropped beats. no murmurs/gallops/rubs.  
Pulm: good air entry, diffuse inspiratory and expiratory 
wheezes, most pronounced in left middle and lower lobes 
Abd: BS+, soft, NT, no rebound/guarding
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: port site with incision closed with glue. no erythema or 
warmth, but area around incision tender
Neuro: CNs II-XII intact. ___ strength in U/L extremities. 

DISCHARGE:
VS:  98.7 86 102/60 18 95
HEENT: PERRLA. MMM. neck supple. 
Cards: Regular except for relatively frequent dropped beats. no 
murmurs/gallops/rubs.  
Pulm: Good air entry, diffuse inspiratory and expiratory 
wheezes, most pronounced in left middle and lower lobes 
Abd: BS+, soft, NT, no rebound/guarding
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: port site with incision closed with glue. no erythema or 
warmth, but area around incision tender
Neuro: CNs II-XII grossly intact. No focal focal deficits

 
Pertinent Results:
ADMISSION LABS:

___ 09:15PM   UREA N-5* CREAT-0.4* SODIUM-131* 
POTASSIUM-4.0 CHLORIDE-95* TOTAL CO2-28 ANION GAP-12
___ 09:15PM   CK(CPK)-50
___ 09:15PM   CK-MB-2 cTropnT-<0.01
___ 12:24PM   GLUCOSE-117* UREA N-6 CREAT-0.5 SODIUM-128* 
POTASSIUM-3.9 CHLORIDE-92* TOTAL CO2-27 ANION GAP-13
___ 12:24PM   ALT(SGPT)-44* AST(SGOT)-19 CK(CPK)-47 ALK 
PHOS-72 TOT BILI-0.3
___ 12:24PM   CK-MB-2 cTropnT-<0.01
___ 12:24PM   CALCIUM-8.8 PHOSPHATE-5.0* MAGNESIUM-1.8
___ 12:24PM   WBC-15.6* RBC-4.00* HGB-11.7* HCT-35.6* 
MCV-89 MCH-29.2 MCHC-32.7 RDW-12.6
___ 12:24PM   NEUTS-84.5* LYMPHS-7.7* MONOS-7.4 EOS-0.3 
BASOS-0.2
___ 12:24PM   PLT COUNT-236
___ 12:24PM   ___ PTT-29.6 ___

MICRO:
___ RESPIRATORY CX GRAM STAIN 1+ (<1 per 1000X FIELD): 
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
RESPIRATORY CULTURE (Final ___: SPARSE GROWTH Commensal 
Respiratory Flora. 

DISCHARGE LABS:

___ 08:15AM BLOOD WBC-9.4 RBC-4.16* Hgb-11.8* Hct-37.4* 
MCV-90 MCH-28.5 MCHC-31.7 RDW-12.8 Plt ___
___ 08:15AM BLOOD Neuts-69.0 ___ Monos-11.0 Eos-0.5 
Baso-0.2
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-119* UreaN-5* Creat-0.5 Na-130* 
K-4.1 Cl-94* HCO3-29 AnGap-11
___ 08:15AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.0
 
Brief Hospital Course:
This is a ___ M with history of stage IV pancreatic 
adenocarcinoma with significant lung involvement/lymphangitic 
spread, DVT on Lovenox and SIADH who was admitted due to 
difficulty weaning off the ventilator following port placement. 

# Dyspnea, hypoxia and cough: Patient had cough and hypoxia to 
high ___ on room air. Recent CXR and CT scan are 
suggestive of extensive pulmonary metastases and likely 
lymphangitic spread, which are likely etiology of patient's 
cough. No fever or sputum production to suggest pneumonia, and 
CT shortly prior to admission was without evidence of pneumonia. 
There was likely also an element of atelectasis following 
anesthesia contributing to increased hypoxia. Pt does has hx of 
DVT, but is on anticoagulation with Lovenox, so PE was not 
considered likely. x2. Patient was given ipratropium, albuterol 
nebs, continued on benzonatate and incentive spirometry with 
rapid improvement in his symptoms.

# Stage IV pancreatic cancer: s/p port placement for anticipated 
start of chemotherapy next week.

# Leukocytosis: Likely stress response in setting of significant 
cancer burden and possibly aspiration during procedure. No 
fevers or evidence of pneumonia. 

# Tachycardia: Likely secondary to fluid depletion in setting of 
being NPO for surgery, and responded to IVF.  PE was in ddx as 
above, but patient has been anticoagulated. EKG showed frequent 
PVCs and non-specific ST changes. Troponins were negative.

# Hyponatremia: Likely secondary to SIADH. Na 130 at discharge.

# Hx of DVT/PE: Continued on  lovenox

TRANSITIONAL ISSUES:
- Recheck Na at ___ Oncology appt to ensure hyponatremia is 
stable.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 100 mg PO TID 
2. Pancrelipase 5000 1 CAP PO TID W/MEALS 
3. Morphine Sulfate ___ 15 mg PO Q6H:PRN pain, cough 
4. albuterol sulfate 90 mcg/actuation inhalation q4h:PRN cough 
5. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1. Benzonatate 100 mg PO TID 
2. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
3. Morphine Sulfate ___ 15 mg PO Q6H:PRN pain, cough 
4. Pancrelipase 5000 1 CAP PO TID W/MEALS 
5. albuterol sulfate 90 mcg/actuation inhalation q4h:PRN cough 
6. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ ml by mouth q6hrs Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypoxia, post-operative atelectasis
Secondary: 
Stage IV pancreatic adenocarcinoma
DVT
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted to the hospital after your port 
placement because of increased cough and low oxygen levels. Your 
oxygen levels improved with nebulizer treatments and breathing 
exercises. You did not have any fevers to suggest a pneumonia.

It is important that you keep your scheduled followup 
appointments and continue to take all of your medications as 
prescribed.
 
Followup Instructions:
___